US08105689B2
Tetraethyl 2,2′-iminobis(ethylphosphonate)
A solution of diethyl vinylphosphonate (10.52 g; 0.062 moles) in concentrated ammonia (14.4 g) is stirred for 2 days at room temperature. The reaction mixture is diluted with water (100 ml), extracted with dichloromethane (4×30 ml) and dried over MgSO4. Stripping of the solvent in vacuo until constant weight affords a colorless liquid (8.36 g; yield 73%).

reactant | diethyl vinylphosphonate | 0.062 moles, 10.52 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
reactant | ammonia | 14.4 g | N | H3N
solvent | water | 100 ml | O | H2O
product | Tetraethyl 2,2′-iminobis(ethylphosphonate) | yield 73% | N(CCP(OCC)(OCC)=O)CCP(OCC)(OCC)=O | C12H29NO6P2
